US05959123
(3S,4S)-3-(1 -N-benzyloxycarbonyl-2-indolinecarbonyl)-amino-4-acetoxy-azetidin-2-one (1)
To a solution of 1-benzyloxycarbonyl-2-indoline carboxylic acid (320 mg, 1.05 mmol) and triethylamine (106 mg, 1.05 mmol) in chloroform (20 ml), ethyl chloroformate (109 mg, 1 mmol) was added at -15° C. The reaction mixture was stirred at a bath temperature of -10 to 5° C. for 1 hr. Then a precooled solution of (3S,4S)-3-amino-4-acetoxy-azetidin-2-one in ethyl acetate was added at -15° C. and stirring was continued at a bath temperature of -15 to 5° C. for 1 hr. After removal of solvent, the residue was dissolved in ethyl acetate, washed with water, brine and dried over sodium sulfate. After removal of solvent, the residue was purified by silica gel column chromatography using hexane-ethyl acetate (1:3) as eluent and the title compound was obtained.

reactant | 1-benzyloxycarbonyl-2-indoline carboxylic acid | 1.05 mmol, 320 mg | C(C1=CC=CC=C1)OC(=O)N1C(CC2=CC=CC=C12)C(=O)O | C17H15NO4
reactant | triethylamine | 1.05 mmol, 106 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1 mmol, 109 mg | ClC(=O)OCC | C3H5ClO2
reactant | (3S,4S)-3-amino-4-acetoxy-azetidin-2-one | N[C@@H]1C(N[C@H]1OC(C)=O)=O | C5H8N2O3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S,4S)-3-(1 -N-benzyloxycarbonyl-2-indolinecarbonyl)-amino-4-acetoxy-azetidin-2-one | Yield: 71% | C(C1=CC=CC=C1)OC(=O)N1C(CC2=CC=CC=C12)C(=O)[C@H]1C(N([C@H]1OC(C)=O)N)=O | C22H21N3O6
